US05708174
1,2,3,4-Tetrahydroquinoline-8-carboxylic acid
A solution of quinoline-8-carboxylic acid (85 mg) in ethanol (15 ml) was hydrogenated over PtO2 (250 mg) at 50 psi and room temperature for 2 hours. The catalyst was removed by filtration through keiselguhr and the filtrate concentrated in vacuo to afford the title compound (80 mg).

reactant | quinoline-8-carboxylic acid | 85 mg | N1=CC=CC2=CC=CC(=C12)C(=O)O | C10H7NO2
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | PtO2 | 250 mg | O=[Pt]=O
product | 1,2,3,4-Tetrahydroquinoline-8-carboxylic acid | 80 mg | N1CCCC2=CC=CC(=C12)C(=O)O | C10H11NO2
